US06048885
THF (7.5 ml), 2,3-dichloro-5-trifluoromethylpyridine (0.81 g, 3.75 mmol) and 60% sodium hydride (0.12 g, 3.0 mmol) were added to 2-hydroxymethylphenyl 3-methylisoxazol-5-yl ketone O-methyloxime (0.62 g, 2.5 mmol) under ice-cooling, and the mixture was stirred at room temperature overnight. Water (100 ml) was added to the reaction mixture, and the mixture was extracted with ether (150 ml). The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (ethyl acetate/n-hexane) to give isomer A (0.29 g, yield: 27.2%) and isomer B (0.76 g, yield: 71.4%) of 2-(3-chloro-5-trifluoromethyl-2-pyridyloxymethyl)phenyl 3-methylisoxazol-5-yl ketone O-methyloxime.

reactant | THF | 7.5 ml | C1CCOC1 | C4H8O
reactant | 2,3-dichloro-5-trifluoromethylpyridine | 3.75 mmol, 0.81 g | ClC1=NC=C(C=C1Cl)C(F)(F)F | C6H2Cl2F3N
reactant | sodium hydride | 3.0 mmol, 0.12 g | [H-].[Na+]
reactant | 2-hydroxymethylphenyl 3-methylisoxazol-5-yl ketone O-methyloxime | 2.5 mmol, 0.62 g | CON=C(C1=C(C=CC=C1)CO)C1=CC(=NO1)C | C13H14N2O3
solvent | Water | 100 ml | O | H2O
product | 2-(3-chloro-5-trifluoromethyl-2-pyridyloxymethyl)phenyl 3-methylisoxazol-5-yl ketone O-methyloxime | 0.76 g, yield: 71.4% | CON=C(C1=C(C=CC=C1)COC1=NC=C(C=C1Cl)C(F)(F)F)C1=CC(=NO1)C | C19H15ClF3N3O3
